US08314107B2
To a stirred mixture of 6-hydroxybenzo[d]thiazole-2-carboxylic acid (0.20 g, 1 mmol) in anhydrous N,N-dimethylformamide (2 mL) was added triethylamine (0.12 g, 1.2 mmol), 1-hydroxybenzotriazole hydrate (0.16 g, 1.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.23 g, 1.2 mmol), and tert-butyl 4-aminopiperidine-1-carboxylate (0.24 g, 1.2 mmol). The mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The residue obtained was purified by flash chromatography (silica gel, ethyl acetate/hexanes=1/1) to afford tert-butyl 4-(6-hydroxybenzo[d]thiazole-2-carboxamido)piperidine-1-carboxylate as a white solid (0.23 g, 62%). 1H-NMR (CDCl3, 300 MHz): δ 7.90 (m, 1H), 7.38 (m, 1H), 7.28 (m, 2H), 7.11 (m, 1H), 4.12 (m, 3H), 2.95 (m, 2H), 2.04 (m, 2H), 1.58 (m, 2H), 1.48 (s, 9H) ppm; MS (ESI): 379.1 (M+1).

reactant | 6-hydroxybenzo[d]thiazole-2-carboxylic acid | 1 mmol, 0.20 g | OC1=CC2=C(N=C(S2)C(=O)O)C=C1 | C8H5NO3S
reactant | triethylamine | 1.2 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 1.2 mmol, 0.16 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 mmol, 0.23 g | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 1.2 mmol, 0.24 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(6-hydroxybenzo[d]thiazole-2-carboxamido)piperidine-1-carboxylate | 0.23 g, 62% | OC1=CC2=C(N=C(S2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H23N3O4S
